US08754114B2
Step 6: N-[3-(7-{1-[1-(methoxyacetyl)piperidin-4-yl]-1H-pyrazol-4-yl}imidazo[1,2-b]pyridazin-3-yl)phenyl]-N′-(2,2,2-trifluoroethyl)urea
A mixture of N-{3-[7-(1-piperidin-4-yl-1H-pyrazol-4-yl)imidazo[1,2-b]pyridazin-3-yl]phenyl}-N′-(2,2,2-trifluoroethyl)urea (20.0 mg, 0.0413 mmol), methoxyacetyl chloride (5.66 μL, 0.0619 mmol) and N,N-diisopropylethylamine (40.0 μL, 0.230 mmol, Aldrich, Cat. No. M9653) in dimethylsulfoxide (DMSO) (0.5 mL) was stirred at r.t. for 4 h. The mixture was purified by RP-HPLC (pH=10) to afford the desired product. LCMS (M+H)+: m/z=557.2.

reactant | N-{3-[7-(1-piperidin-4-yl-1H-pyrazol-4-yl)imidazo[1,2-b]pyridazin-3-yl]phenyl}-N′-(2,2,2-trifluoroethyl)urea | 0.0413 mmol, 20.0 mg | N1CCC(CC1)N1N=CC(=C1)C1=CC=2N(N=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C23H23F3N8O
reactant | methoxyacetyl chloride | 0.0619 mmol, 5.66 μL | COCC(=O)Cl | C3H5ClO2
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dimethylsulfoxide | 0.5 mL | CS(=O)C | C2H6OS
product | N-[3-(7-{1-[1-(methoxyacetyl)piperidin-4-yl]-1H-pyrazol-4-yl}imidazo[1,2-b]pyridazin-3-yl)phenyl]-N′-(2,2,2-trifluoroethyl)urea | COCC(=O)N1CCC(CC1)N1N=CC(=C1)C1=CC=2N(N=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C26H27F3N8O3
